US09024022B2
Compound 22: benzylguanine-piperidine
Weighed into a 1.5 ml Eppendorf tube were 1.8 mg (3 μmol) of benzylguanine-N-Fmoc-piperidine which was dissolved in 190 μl of anhydrous dimethylformamide. 10 μl of piperidine were added and the reaction mixture was left stirring for one hour. The reaction was monitored by HPLC on a Merck Lichrospher RP °18, 5 μm, 125×4.6 column with a gradient of acetonitrile in water containing 0.2% of trifluoroacetic acid.

reactant | benzylguanine N-Fmoc-piperidine | 3 μmol, 1.8 mg | C(C1=CC=CC=C1)NC=1NC(C=2NC=NC2N1)=O.C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)N1CCCCC1
reactant | piperidine | 10 μl | N1CCCCC1 | C5H11N
reactant | acetonitrile | C(C)#N | C2H3N
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | dimethylformamide | 190 μl | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | benzylguanine piperidine | C(C1=CC=CC=C1)NC=1NC(C=2NC=NC2N1)=O.N1CCCCC1 | InChI=1S/C12H11N5O.C5H11N/c18-11-9-10(15-7-14-9)16-12(17-11)13-6-8-4-2-1-3-5-8;1-2-4-6-5-3-1/h1-5,7H,6H2,(H3,13,14,15,16,17,18);6H,1-5H2
